US07678834B2
45 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile were dissolved in 250 ml analytical grade tetrahydrofuran, 238 ml 1.0 molar phenethylmagnesium chloride solution in THF were added under a nitrogen atmosphere and the mixture was stirred overnight at room temperature. For working up, 100 ml ammonium chloride solution (20 per cent by weight) were added, while cooling with ice, the phases were separated, the aqueous phase was extracted twice with 200 ml diethyl ether each time, the combined organic phases were washed successively with 100 ml water and 100 saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. The crude dimethyl-(8-phenethyl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine obtained as a yellow oil (54.1 g) was stirred, without further purification, with a mixture of 120 ml conc. hydrochloric acid (32 per cent by weight) and 70 ml water for 24 hours at room temperature. The reaction mixture was then first washed three times with 50 ml diethyl ether each time, then rendered alkaline by addition of sodium hydroxide solution (32 per cent by weight), while cooling with ice, and extracted three times with 100 ml methylene chloride each time, the combined methylene chloride extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. 35.7 g of crude 4-dimethylamino-4-phenethyl-cyclohexanone were obtained as a slowly crystallizing brown oil.

reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 45 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | phenethylmagnesium chloride | 1.0 molar, 238 ml | C(CC1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | dimethyl-(8-phenethyl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine | CN(C1(CCC2(OCCO2)CC1)CCC1=CC=CC=C1)C | C18H27NO2
